US05684186
10 g of ethyl 3-(4-hydroxyphenyl)pyruvate and 30 ml of toluene were charged to a pressure reactor to form a solution, and 0.25 g of 5% palladium on charcoal was added thereto. The atmosphere was displaced with hydrogen, and the mixture was stirred at 50° C. under a hydrogen pressure of 5 kg/cm2 for 1 hour. After completion of the reaction, the reaction mixture was filtered to remove the catalyst, and the filtrate was concentrated under reduced pressure to give 9.9 g of ethyl 3-(4-hydroxyphenyl)lactate as a colorless oily substance.

reactant | ethyl 3-(4-hydroxyphenyl)pyruvate | 10 g | OC1=CC=C(C=C1)CC(C(=O)OCC)=O | C11H12O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.25 g | [Pd] | Pd
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-(4-hydroxyphenyl)lactate | 9.9 g | OC1=CC=C(C=C1)CC(C(=O)OCC)O | C11H14O4
